US07053212B2
Step A: 4-Hydroxy-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide
A solution of [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-amine (264 mg, 0.666 mmol) in methylene chloride (10 mL) was treated with carbonic acid 4-chlorosulfonyl-phenyl ester ethyl ester (278 mg, 1.05 mmol) and triethylamine (0.3 mL). The reaction mixture was stirred for 60 hr. and water was added. The aqueous solution was washed with methylene chloride (2×). The combined organic layers were dried (sodium sulfate), filtered, and concentrated in vacuo. The crude product was purified via radial chromatography using a solvent gradient (methylene chloride to 5% methanol/methylene chloride) to obtain the title compound of Step A.

reactant | [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-amine | 0.666 mmol, 264 mg | N1(CCCC1)CCOC1=CC=C(C=C1)NCC1=CC=C(C=C1)OC1OCCCC1 | C24H32N2O3
reactant | carbonic acid 4-chlorosulfonyl-phenyl ester ethyl ester | 1.05 mmol, 278 mg | C(C)OC(OC1=CC=C(C=C1)S(=O)(=O)Cl)=O | C9H9ClO5S
reactant | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-Hydroxy-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide | OC1=CC=C(C=C1)S(=O)(=O)N(CC1=CC=C(C=C1)OC1OCCCC1)C1=CC=C(C=C1)OCCN1CCCC1 | C30H36N2O6S
